US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (234 mg, 1.22 mmol) (described in a previous experimental) and 4-bromobenzylamine (0.84 g, 4.52 mmol) is stirred under N2 at 140° C. for 1 h, and the resulting product chromatographed on silica gel (10% EtOH/EtOAc) to give 7-amino-4-(4-bromobenzylamino)pyrido[4,3-d]pyrimidine (192 mg, 48%) as a cream solid. 1H NMR (DMSO) δ 9.09 (1H, s), 8.87 (1H, t, J=5.7 Hz), 8.25 (1H, s), 7.51 (2H, d, J=8.3 Hz), 7.31 (2H, d, J=8.3 Hz), 6.46 (2H, brs), 6.37 (1H, s), 4.70 (2H, d, J=5.8 Hz).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.22 mmol, 234 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 4-bromobenzylamine | 4.52 mmol, 0.84 g | BrC1=CC=C(CN)C=C1 | C7H8BrN
product | 7-amino-4-(4-bromobenzylamino)pyrido[4,3-d]pyrimidine | 192 mg, 48% | NC1=CC=2N=CN=C(C2C=N1)NCC1=CC=C(C=C1)Br | C14H12BrN5
